US04798620
Sodium hydroxide (0.7 g) and water (10 ml) were added to a mixture of 4-ethoxycarbonylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one (3.7 g) and ethanol (20 ml), and the mixture was refluxed under heating for 5 hours. After the reaction, the solvent was concentrated, and dissolved in water (50 ml), and washed with methylisobutyl ketone, the aqueous layer was acidified with hydrochloric acid, and extracted with methyl isobutyl ketone, then dried with anhydrous sodium sulfate. After the solvent was distilled off, the residue was mixed with a mixed solvent of toluene-hexane (1:5), the mixture was filtered off to give the desired 4-carboxymethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one (3.2 g). mp. 183°-184° C.

reactant | Sodium hydroxide | 0.7 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | 4-ethoxycarbonylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 3.7 g | C(C)OC(=O)CN1C(COC2=C1C=CC(=C2)F)=O | C12H12FNO4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-carboxymethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 3.2 g | C(=O)(O)CN1C(COC2=C1C=CC(=C2)F)=O | C10H8FNO4
